US09108939B2
B: tert-Butyl 4-(4-aminophenylthio)piperidine-1-carboxylate
tert-Butyl 4-(4-nitrophenylthio)piperidine-1-carboxylate (8.56 mmol, 2.8973 g) and palladium (3.77 mmol, 0.401 g) were combined in ethanol (30 mL) and the reaction mixture hydrogenated at 5 bar for 2 hours. The reaction mixture was filtered and concentrated under vacuum, reaction incomplete. Hydrogenation resumed with fresh palladium and left overnight. The reaction mixture was filtered and concentrated under vacuum to afford the title compound (2.86 g).

reactant | tert-Butyl 4-(4-nitrophenylthio)piperidine-1-carboxylate | 8.56 mmol, 2.8973 g | [N+](=O)([O-])C1=CC=C(C=C1)SC1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O4S
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium | 3.77 mmol, 0.401 g | [Pd] | Pd
product | tert-Butyl 4-(4-aminophenylthio)piperidine-1-carboxylate | 2.86 g | NC1=CC=C(C=C1)SC1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O2S
